US05387603
To a solution of 5-[2-[N-tert-butoxycarbonyl-2-(2-ethoxyphenoxy)ethylamino]propyl]indoline-7-carbonitrile (120 mg) in dimethyl sulfoxide (2.5 ml) was added 30% hydrogen peroxide (0.26 ml), and the mixture was stirred at room temperature for 15 minutes. Then, to the reaction mixture was added a 5N sodium hydroxide solution (0.26 ml), and the mixture was stirred at room temperature for 1.5 hours. To the reaction mixture was added acetic acid. The mixture was diluted with water and extracted with ethyl acetate. The extract was washed with a saturated aqueous sodium bicarbonate solution and water, dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure to give 127 mg of 5-[2-[N-tert-butoxycarbonyl-2-(2-ethoxyphenoxy)ethylamino]propyl]indoline-7-carboxamide as an oil.

reactant | 5-[2-[N-tert-butoxycarbonyl-2-(2-ethoxyphenoxy)ethylamino]propyl]indoline-7-carbonitrile | 120 mg | C(C)(C)(C)OC(=O)N(C(CC=1C=C2CCNC2=C(C1)C#N)C)CCOC1=C(C=CC=C1)OCC | C27H35N3O4
reactant | hydrogen peroxide | 0.26 ml | OO | H2O2
reactant | sodium hydroxide | 5N, 0.26 ml | [OH-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | dimethyl sulfoxide | 2.5 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 5-[2-[N-tert-butoxycarbonyl-2-(2-ethoxyphenoxy)ethylamino]propyl]indoline-7-carboxamide | 127 mg | C(C)(C)(C)OC(=O)N(C(CC=1C=C2CCNC2=C(C1)C(=O)N)C)CCOC1=C(C=CC=C1)OCC | C27H37N3O5
